US05739132
11.3 ml of a 1N sodium hydroxide aqueous solution was added dropwise under ice cooling to 3.25 g of 2-n-butylsulfonylamino-5-[2-ethoxycarbonylmethylpyridazin-3(2H)-on-6-yl]indane suspended in 50 ml of methanol, and the mixture was stirred at room temperature for 5 hours. Methanol was removed, water was added to the residue, and the mixture was made acidic with 10% hydrochloric acid. Crystals precipitated were collected by filtration, washed with water and then recrystallized from ethanol-water to obtain 2.50 g of 2-n-butylsulfonylamino-5-[2-carboxymethylpyridazin-3(2H)-on-6-yl]indane.

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 2-n-butylsulfonylamino-5-[2-ethoxycarbonylmethylpyridazin-3(2H)-on-6-yl]indane | 3.25 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(N(N1)CC(=O)OCC)=O | C21H27N3O5S
solvent | methanol | 50 ml | CO | CH4O
product | 2-n-butylsulfonylamino-5-[2-carboxymethylpyridazin-3(2H)-on-6-yl]indane | 2.50 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(N(N1)CC(=O)O)=O | C19H23N3O5S
